US06689754B1
To 2-methylthio-2-imidazoline hydroiodide (20 g, 0.082 mole) (Aldrich), and triethylamine (8.28 g, 0.082 mole) in CH2Cl2 (100 mL) was added BOC anhydride (17.9 g, 0.082 mole) at ice bath temperature. The reaction was stirred overnight at room temperature. The CH2Cl2was washed with H2O (2×), dried over MgSO4 and removed under vacuum to yield N-BOC-2-methylthio-2-imidazoline as a viscous oil turned waxy white solid (15.93 g).

reactant | 2-methylthio-2-imidazoline hydroiodide | 0.082 mole, 20 g | I.CSC=1NCCN1
reactant | triethylamine | 0.082 mole, 8.28 g | C(C)N(CC)CC | C6H15N
reactant | BOC anhydride | 0.082 mole, 17.9 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | N-BOC-2-methylthio-2-imidazoline | C(=O)(OC(C)(C)C)N1C(=NCC1)SC | C9H16N2O2S
